*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 4.3
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_0 1 2 3 4 REF
C_C1 1 REF 0.7090087837093pf
C_C2 1 2 22.166282976198pf
C_C3 1 3 0.0360998723661pf
C_C4 1 4 0.2975603438293pf
C_C5 2 REF 1.01508664471pf
C_C6 2 3 0.1319765613166pf
C_C7 3 REF 1.1355745238449pf
C_C8 3 4 4.7150736843051pf
C_C9 4 REF 1.1187586062404pf
L_L1 3 5 1.2922272371519nh
R_RL1 5 4 -1.0421855e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_1 1 2 3 4 REF
C_C1 1 REF 0.5928078080897pf
C_C2 1 2 22.777981083887pf
C_C3 1 3 0.0325375866274pf
C_C4 1 4 0.3045793633109pf
C_C5 2 REF 0.9077107575651pf
C_C6 2 3 0.1375652037723pf
C_C7 3 REF 1.1335787254242pf
C_C8 3 4 3.4113124937734pf
C_C9 4 REF 1.1219473340695pf
L_L1 3 5 1.2932679843754nh
R_RL1 5 4 3.0518162021e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_2 1 2 3 4 REF
C_C1 1 REF 0.5109435591837pf
C_C2 1 2 23.417238545117pf
C_C3 1 3 0.0285826298911pf
C_C4 1 4 0.3124444574183pf
C_C5 2 REF 0.8357694172695pf
C_C6 2 3 0.1425533358419pf
C_C7 3 REF 1.1325798426553pf
C_C8 3 4 2.5060161166968pf
C_C9 4 REF 1.1243026249685pf
L_L1 3 5 1.294129401098nh
R_RL1 5 4 1.3319451682e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_3 1 2 3 4 REF
C_C1 1 REF 0.4455149222083pf
C_C2 1 2 24.262613604156pf
C_C3 1 3 0.0233912509243pf
C_C4 1 4 0.3232553665878pf
C_C5 2 REF 0.7840832154687pf
C_C6 2 3 0.1481122141313pf
C_C7 3 REF 1.1322604868374pf
C_C8 3 4 1.7326926140523pf
C_C9 4 REF 1.1263272737364pf
L_L1 3 5 1.2949940870568nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_4 1 2 3 4 REF
C_C1 1 REF 0.4016610114036pf
C_C2 1 2 25.335766266262pf
C_C3 1 3 0.0171940673465pf
C_C4 1 4 0.3371340451902pf
C_C5 2 REF 0.7580642894817pf
C_C6 2 3 0.1540632483412pf
C_C7 3 REF 1.1325698674311pf
C_C8 3 4 1.1188030245383pf
C_C9 4 REF 1.1278487328278pf
L_L1 3 5 1.2958491530728nh
R_RL1 5 4 -2.334901546e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_5 1 2 3 4 REF
C_C1 1 REF 0.3806194864453pf
C_C2 1 2 26.496955444715pf
C_C3 1 3 0.0111190116556pf
C_C4 1 4 0.3520015075141pf
C_C5 2 REF 0.7563679148389pf
C_C6 2 3 0.1595917294416pf
C_C7 3 REF 1.1331853765244pf
C_C8 3 4 0.7176069165391pf
C_C9 4 REF 1.1287283372986pf
L_L1 3 5 1.2965303222421nh
R_RL1 5 4 -3.75509162e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_6 1 2 3 4 REF
C_C1 1 REF 0.3711869935699pf
C_C2 1 2 27.764136198586pf
C_C3 1 4 0.3678764715203pf
C_C4 2 REF 0.7678168613284pf
C_C5 2 3 0.164997793608pf
C_C6 3 REF 1.133818932036pf
C_C7 3 4 0.4466303137622pf
C_C8 4 REF 1.1292298962176pf
L_L1 3 5 1.2970811896771nh
R_RL1 5 4 -4.76665432e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_7 1 2 3 4 REF
C_C1 1 REF 0.3659574787064pf
C_C2 1 2 29.415405960611pf
C_C3 1 4 0.3879778305864pf
C_C4 2 REF 0.789267437481pf
C_C5 2 3 0.1715023722781pf
C_C6 3 REF 1.134403786871pf
C_C7 3 4 0.2341026848298pf
C_C8 4 REF 1.1295465899659pf
L_L1 3 5 1.297585447118nh
R_RL1 5 4 -5.447375315e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_8 1 2 3 4 REF
C_C1 1 REF 0.3604960907157pf
C_C2 1 2 31.548341676626pf
C_C3 1 4 0.41316189327pf
C_C4 2 REF 0.8174420830008pf
C_C5 2 3 0.1794781096383pf
C_C6 3 REF 1.1348028873169pf
C_C7 3 4 0.0738862948676pf
C_C8 4 REF 1.1297329061616pf
L_L1 1 5 94.272519241192nh
R_RL1 5 2 7.7832680979618
L_L2 3 6 1.2980262256334nh
R_RL2 6 4 -5.676034107e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_9 1 2 3 4 REF
C_C1 1 REF 0.3499742141692pf
C_C2 1 2 34.385018661546pf
C_C3 1 4 0.4456410239477pf
C_C4 2 REF 0.8504572135285pf
C_C5 2 3 0.1897495400291pf
C_C6 3 REF 1.1349237014887pf
C_C7 4 REF 1.1298390588847pf
L_L1 1 5 60.245084805826nh
R_RL1 5 2 4.1113025608383
L_L2 3 6 1.2982051017771nh
R_RL2 6 4 -5.301517103e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_10 1 2 3 4 REF
C_C1 1 REF 0.3301263698514pf
C_C2 1 2 38.203188555934pf
C_C3 1 4 0.4882748204124pf
C_C4 2 REF 0.8878262589122pf
C_C5 2 3 0.2033604579685pf
C_C6 3 REF 1.1347580056866pf
C_C7 4 REF 1.129918043584pf
L_L1 1 5 38.010053610353nh
R_RL1 5 2 -2.381555381369
L_L2 3 6 1.2980203068601nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_11 1 2 3 4 REF
C_C1 1 REF 0.295532092155pf
C_C2 1 2 43.620774373812pf
C_C3 1 4 0.5476412444296pf
C_C4 2 REF 0.9328994676248pf
C_C5 2 3 0.2225468353678pf
C_C6 3 REF 1.1343253024514pf
C_C7 4 REF 1.1300265629977pf
L_L1 1 5 23.114606265266nh
R_RL1 5 2 1.007873741808
L_L2 3 6 1.2976793464035nh
R_RL2 6 4 -2.65073013e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_12 1 2 3 4 REF
C_C1 1 REF 0.239370375491pf
C_C2 1 2 51.621984122236pf
C_C3 1 4 0.6344059236239pf
C_C4 2 REF 0.9931322430378pf
C_C5 2 3 0.2508467974063pf
C_C6 3 REF 1.1336769670461pf
C_C7 4 REF 1.1302516311747pf
L_L1 1 5 14.185106454132nh
R_RL1 5 2 1.0271343458517
L_L2 3 6 1.2971768030839nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_13 1 2 3 4 REF
C_C1 1 REF 0.1453428726729pf
C_C2 1 2 64.565529536097pf
C_C3 1 4 0.7742420159958pf
C_C4 2 REF 1.0866719322524pf
C_C5 2 3 0.2966876317pf
C_C6 3 REF 1.1328202811592pf
C_C7 4 REF 1.1307836485481pf
L_L1 1 5 7.9104611860555nh
R_RL1 5 2 -1.404745697469
L_L2 3 6 1.2963481629656nh
R_RL2 6 4 1.5784484276e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_14 1 2 3 4 REF
C_C1 1 2 87.511187194371pf
C_C2 1 4 1.0223687799176pf
C_C3 2 REF 1.2518956991153pf
C_C4 2 3 0.3781559081777pf
C_C5 3 REF 1.1316884979479pf
C_C6 4 REF 1.1320438763044pf
R_R1 1 2 803.22312549944
L_L1 1 5 3.9880000539567nh
R_RL1 5 2 -0.437849283925
L_L2 3 6 1.2950229514918nh
R_RL2 6 4 3.6652576455e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_15 1 2 3 4 REF
C_C1 1 2 136.65299733308pf
C_C2 1 4 1.5553022099814pf
C_C3 2 REF 1.6084012367387pf
C_C4 2 3 0.5531471830813pf
C_C5 3 REF 1.1299049888696pf
C_C6 4 REF 1.1353473805149pf
R_R1 1 2 566.54973769385
L_L1 1 5 1.7013155214471nh
R_RL1 5 2 -0.030257432835
L_L2 1 6 72.406945926665nh
R_RL2 6 3 -0.011445337228
L_L3 1 7 71.670531413978nh
R_RL3 7 4 -0.011705312473
L_L4 2 8 72.478533839903nh
R_RL4 8 3 6.5046844401e-4
L_L5 2 9 71.744795508457nh
R_RL5 9 4 6.435145665e-4
L_L6 3 10 1.2923074624284nh
R_RL6 10 4 5.2815556742e-5
Kn_K1 L_L1 L_L2 0.073417988261
Kn_K2 L_L1 L_L3 0.0736730314058
Kn_K3 L_L1 L_L4 -0.079828497255
Kn_K4 L_L1 L_L5 -0.080356779279
Kn_K5 L_L2 L_L3 0.9910434140381
Kn_K6 L_L2 L_L4 0.988257635989
Kn_K7 L_L2 L_L5 0.9792246007407
Kn_K8 L_L2 L_L6 -0.104862328455
Kn_K9 L_L3 L_L4 0.9792663991673
Kn_K10 L_L3 L_L5 0.9881372754354
Kn_K11 L_L3 L_L6 0.0288807144077
Kn_K12 L_L4 L_L5 0.9910523650765
Kn_K13 L_L4 L_L6 -0.104672268345
Kn_K14 L_L5 L_L6 0.0290047287408
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_16 1 2 3 4 REF
C_C1 1 2 298.42142978972pf
C_C2 1 4 3.3143799031172pf
C_C3 2 REF 2.7884901274655pf
C_C4 2 3 1.1307020620756pf
C_C5 3 REF 1.1252251855289pf
C_C6 4 REF 1.147583449073pf
L_L1 1 5 66.228966140834nh
R_RL1 5 REF -2.679974970248
L_L2 1 6 0.5290758906655nh
R_RL2 6 2 0.0014107922057
L_L3 1 7 26.081119993811nh
R_RL3 7 3 0.0083189483877
L_L4 1 8 25.392360303753nh
R_RL4 8 4 0.0083099667196
L_L5 2 9 65.800937772574nh
R_RL5 9 REF -2.63807986377
L_L6 2 10 26.163243205431nh
R_RL6 10 3 -8.612150791e-4
L_L7 2 11 25.478268796424nh
R_RL7 11 4 -8.505956771e-4
L_L8 3 12 91.672237541855nh
R_RL8 12 REF -2.659182581235
L_L9 3 13 1.2838183678741nh
R_RL9 13 4 5.6918357236e-5
L_L10 4 14 90.973630067253nh
R_RL10 14 REF -2.658834317751
Kn_K1 L_L1 L_L2 0.0808437181756
Kn_K2 L_L1 L_L5 0.9959979910896
Kn_K3 L_L1 L_L8 0.8458798579401
Kn_K4 L_L1 L_L10 0.8490580650295
Kn_K5 L_L2 L_L3 0.060160224002
Kn_K6 L_L2 L_L4 0.0604543124364
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082138721178
Kn_K9 L_L2 L_L7 -0.083751028396
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9751459472125
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9898742760592
Kn_K15 L_L3 L_L7 0.9648312550688
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.170446972313
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.965017440156
Kn_K21 L_L4 L_L7 0.9896009914813
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0521106474239
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8453423439258
Kn_K26 L_L5 L_L10 0.8484938229981
Kn_K27 L_L6 L_L7 0.9752255906525
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.169852690306
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0523536453925
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0913684476731
Kn_K35 L_L8 L_L10 0.9929782606128
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_17 1 2 3 4 REF
C_C1 1 2 2748.1565296788pf
C_C2 1 4 29.99354986753pf
C_C3 2 REF 20.68291686988pf
C_C4 2 3 9.891108949556pf
C_C5 3 REF 1.0609588108033pf
C_C6 4 REF 1.3420140172538pf
R_R1 1 REF 332.48954170762
R_R2 1 2 -2.905337701271
R_R3 1 3 901.52231730964
R_R4 1 4 -244.8307702198
R_R5 2 REF -338.1262953813
R_R6 2 3 -901.6311766911
R_R7 2 4 244.86291617788
L_L1 1 5 4.383623238583nh
R_RL1 5 REF -9.735793236e-3
L_L2 1 6 0.0388360399255nh
R_RL2 6 2 0.0049905891758
L_L3 1 7 2.8242017074257nh
R_RL3 7 3 0.0028486415027
L_L4 1 8 2.2249406694919nh
R_RL4 8 4 0.0036261569679
L_L5 2 9 4.3589841377726nh
R_RL5 9 REF -3.122522239e-3
L_L6 2 10 2.8322493292882nh
R_RL6 10 3 3.0893791995e-4
L_L7 2 11 2.2376262202982nh
R_RL7 11 4 9.0678064012e-5
L_L8 3 12 7.1653863183978nh
R_RL8 12 REF -5.776754546e-3
L_L9 3 13 1.1658323166784nh
R_RL9 13 4 8.7864787553e-5
L_L10 4 14 6.5596590121712nh
R_RL10 14 REF -4.859288797e-3
Kn_K1 L_L1 L_L2 0.0769200569424
Kn_K2 L_L1 L_L5 0.9955617961143
Kn_K3 L_L1 L_L8 0.7783760418935
Kn_K4 L_L1 L_L10 0.8129178173921
Kn_K5 L_L2 L_L3 0.0464827757447
Kn_K6 L_L2 L_L4 0.044480855758
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.070681916709
Kn_K9 L_L2 L_L7 -0.087387240826
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010898295534
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7745777174423
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.993135208957
Kn_K16 L_L3 L_L7 0.7662552526712
Kn_K17 L_L3 L_L8 0.9697464863442
Kn_K18 L_L3 L_L9 -0.486375604662
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7682678364308
Kn_K22 L_L4 L_L7 0.9913013816158
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1758924900957
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7776484749514
Kn_K27 L_L5 L_L10 0.8117220267824
Kn_K28 L_L6 L_L7 0.7753987742931
Kn_K29 L_L6 L_L8 0.9647398712753
Kn_K30 L_L6 L_L9 -0.48440793817
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.176828957998
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3064699713626
Kn_K36 L_L8 L_L10 0.9159504779724
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_18 1 2 3 4 REF
C_C1 1 REF 25.244714052016pf
C_C2 1 3 12.1685083992pf
C_C3 2 4 36.834198947319pf
C_C4 3 REF 1.2208430627271pf
C_C5 4 REF 0.8552000768075pf
R_R1 1 REF -434.3359445234
R_R2 1 2 4.106808546274
R_R3 1 4 328.08421631745
R_R4 2 REF 429.74075228087
R_R5 2 4 -328.1040443686
L_L1 1 5 2.9513515932771nh
R_RL1 5 REF -3.29950602e-3
L_L2 1 6 0.4263166366695nh
R_RL2 6 2 -0.832715358053
L_L3 1 7 2.247037670251nh
R_RL3 7 3 -0.355469303681
L_L4 1 8 1.7692705163782nh
R_RL4 8 4 -0.531622405722
L_L5 2 9 3.3612976751622nh
R_RL5 9 REF -0.911601772871
L_L6 2 10 2.1342157316081nh
R_RL6 10 3 -0.099996220882
L_L7 2 11 1.5442703775903nh
R_RL7 11 4 -0.033598152518
L_L8 3 12 5.2003085220963nh
R_RL8 12 REF -0.407944244329
L_L9 3 13 1.1159302537712nh
R_RL9 13 4 -0.017649143854
L_L10 4 14 4.7321002440779nh
R_RL10 14 REF -0.595126245237
Kn_K1 L_L1 L_L5 0.934438754555
Kn_K2 L_L1 L_L8 0.7535934367598
Kn_K3 L_L1 L_L10 0.7912745482235
Kn_K4 L_L2 L_L3 0.2754222957197
Kn_K5 L_L2 L_L4 0.3749721455454
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.164329262311
Kn_K8 L_L2 L_L7 -0.124057081566
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0813193325859
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7273145901963
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9029947251078
Kn_K15 L_L3 L_L7 0.6337867723144
Kn_K16 L_L3 L_L8 0.8636592042662
Kn_K17 L_L3 L_L9 -0.503213366037
Kn_K18 L_L3 L_L10 0.9068438143691
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.578702010072
Kn_K21 L_L4 L_L7 0.8733568513574
Kn_K22 L_L4 L_L8 0.9733083791083
Kn_K23 L_L4 L_L9 0.2270837444882
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0551087928186
Kn_K26 L_L5 L_L7 0.0380691989647
Kn_K27 L_L5 L_L8 0.7686641847438
Kn_K28 L_L5 L_L9 -0.031428297614
Kn_K29 L_L5 L_L10 0.8210564118416
Kn_K30 L_L6 L_L7 0.7057688980677
Kn_K31 L_L6 L_L8 0.9646526797862
Kn_K32 L_L6 L_L9 -0.552687547021
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2003378849318
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3287986918894
Kn_K38 L_L8 L_L10 0.8886354505049
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_19 1 2 3 4 REF
C_C1 1 2 304.61164920302pf
C_C2 1 4 3.3764459313177pf
C_C3 2 REF 2.8468691215244pf
C_C4 2 3 1.1479538651829pf
C_C5 3 REF 1.1248350298877pf
C_C6 4 REF 1.1476173248558pf
R_R1 1 2 39.356716841122
L_L1 1 5 36.084402975262nh
R_RL1 5 REF 0.3252159910704
L_L2 1 6 0.1655170930393nh
R_RL2 6 2 -0.012421249215
L_L3 1 7 14.668424746486nh
R_RL3 7 3 -1.853198164e-3
L_L4 1 8 13.981707766142nh
R_RL4 8 4 -2.019480451e-3
L_L5 2 9 35.72492097136nh
R_RL5 9 REF 0.329385251569
L_L6 2 10 14.777115763487nh
R_RL6 10 3 -3.018123645e-3
L_L7 2 11 14.098303190908nh
R_RL7 11 4 -2.760139439e-3
L_L8 3 12 50.391322257466nh
R_RL8 12 REF 0.3438977364633
L_L9 3 13 1.2712056401436nh
R_RL9 13 4 -2.615120715e-5
L_L10 4 14 49.695401717857nh
R_RL10 14 REF 0.344106594046
Kn_K1 L_L1 L_L2 0.1074106571084
Kn_K2 L_L1 L_L5 0.9977075490157
Kn_K3 L_L1 L_L8 0.8419784290951
Kn_K4 L_L1 L_L10 0.8477446788434
Kn_K5 L_L2 L_L3 0.0182349471425
Kn_K6 L_L2 L_L4 0.0160793958629
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.087666574433
Kn_K9 L_L2 L_L7 -0.092339498839
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9559046566301
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943856484687
Kn_K15 L_L3 L_L7 0.9499679032552
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.226707498101
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9506809043185
Kn_K21 L_L4 L_L7 0.994114088846
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0693199240012
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8406869038767
Kn_K26 L_L5 L_L10 0.8463497981733
Kn_K27 L_L6 L_L7 0.9562404663974
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.224960323871
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0699662573792
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1228899704867
Kn_K35 L_L8 L_L10 0.9873228256093
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_20 1 2 3 4 REF
C_C1 1 REF 0.0939598620375pf
C_C2 1 2 74.515734856255pf
C_C3 1 4 0.8703294022142pf
C_C4 2 REF 1.1736388801249pf
C_C5 2 3 0.324057816012pf
C_C6 3 REF 1.1303367951562pf
C_C7 4 REF 1.1287782081906pf
R_R1 1 2 164.76289946147
L_L1 1 5 0.5688368398337nh
R_RL1 5 2 0.0774906478232
L_L2 1 6 58.676802416392nh
R_RL2 6 3 0.0387916943878
L_L3 1 7 57.835990743622nh
R_RL3 7 4 0.0397323658676
L_L4 2 8 59.227806168342nh
R_RL4 8 3 0.0017665997111
L_L5 2 9 58.39518177377nh
R_RL5 9 4 0.0018092138707
L_L6 3 10 1.2863719751658nh
R_RL6 10 4 -5.948513081e-5
Kn_K1 L_L1 L_L4 -0.096464946834
Kn_K2 L_L1 L_L5 -0.097860508772
Kn_K3 L_L2 L_L3 0.9889851451464
Kn_K4 L_L2 L_L4 0.9951863160055
Kn_K5 L_L2 L_L5 0.9840861776454
Kn_K6 L_L2 L_L6 -0.122421722458
Kn_K7 L_L3 L_L4 0.9842916652391
Kn_K8 L_L3 L_L5 0.995117503794
Kn_K9 L_L3 L_L6 0.0258281987444
Kn_K10 L_L4 L_L5 0.989088381914
Kn_K11 L_L4 L_L6 -0.121381949626
Kn_K12 L_L5 L_L6 0.0261765576697
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_21 1 2 3 4 REF
C_C1 1 REF 0.4181938836274pf
C_C2 1 2 30.789382515391pf
C_C3 1 3 0.0177837758783pf
C_C4 1 4 0.3948486957011pf
C_C5 2 REF 0.8599456948742pf
C_C6 2 3 0.1673842222654pf
C_C7 3 REF 1.1305197471746pf
C_C8 4 REF 1.1241553072529pf
L_L1 1 5 0.9190815437396nh
R_RL1 5 2 -5.923982475e-3
L_L2 3 6 1.2883518778877nh
R_RL2 6 4 1.2460468355e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_22 1 2 3 4 REF
C_C1 1 REF 0.5297321066579pf
C_C2 1 2 16.024871288243pf
C_C3 1 3 0.0754715944414pf
C_C4 1 4 0.2338611861123pf
C_C5 2 REF 0.7564457535507pf
C_C6 2 3 0.1133567086947pf
C_C7 3 REF 1.1299697275088pf
C_C8 4 REF 1.1218253512832pf
L_L1 1 5 1.3192145231661nh
R_RL1 5 2 0.0132912907684
L_L2 3 6 1.2858253471855nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_23 1 2 3 4 REF
C_C1 1 REF 0.5775464884963pf
C_C2 1 2 10.264439630431pf
C_C3 1 3 0.1045592811841pf
C_C4 1 4 0.1683745774131pf
C_C5 2 REF 0.7210650421777pf
C_C6 2 3 0.0887968254461pf
C_C7 2 4 0.0367856701222pf
C_C8 3 REF 1.1289729723807pf
C_C9 4 REF 1.1199439353285pf
R_R1 1 2 -830.7762352178
L_L1 1 5 1.7174495424662nh
R_RL1 5 2 0.0833069273666
L_L2 3 6 1.282989262325nh
R_RL2 6 4 7.2305923368e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_24 1 2 3 4 REF
C_C1 1 REF 0.6029747936599pf
C_C2 1 2 8.2613338756802pf
C_C3 1 3 0.1260633334037pf
C_C4 1 4 0.1395434162879pf
C_C5 2 REF 0.7193343719057pf
C_C6 2 3 0.0728384823478pf
C_C7 2 4 0.0713904876942pf
C_C8 3 REF 1.1276097529799pf
C_C9 4 REF 1.1180250402022pf
L_L1 1 5 1.8497365735827nh
R_RL1 5 2 0.0176961912433
L_L2 3 6 1.2793412025268nh
R_RL2 6 4 1.5912333836e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_25 1 2 3 4 REF
C_C1 1 REF 0.6156880835259pf
C_C2 1 2 7.9800172189729pf
C_C3 1 3 0.1503634614427pf
C_C4 1 4 0.1243479754101pf
C_C5 2 REF 0.7329421547061pf
C_C6 2 3 0.0556273007237pf
C_C7 2 4 0.0940047204498pf
C_C8 3 REF 1.1257572795137pf
C_C9 4 REF 1.115600112135pf
L_L1 1 5 1.8529997176238nh
R_RL1 5 2 -6.264867732e-4
L_L2 3 6 1.2748588958974nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_26 1 2 3 4 REF
C_C1 1 REF 0.6174398628953pf
C_C2 1 2 8.7261568186989pf
C_C3 1 3 0.1719151205219pf
C_C4 1 4 0.1187900827424pf
C_C5 2 REF 0.7518084458981pf
C_C6 2 3 0.039734116454pf
C_C7 2 4 0.105543512588pf
C_C8 3 REF 1.1242490704454pf
C_C9 4 REF 1.1136018167665pf
L_L1 1 5 1.7221879382482nh
R_RL1 5 2 2.803456422e-5
L_L2 3 6 1.2729304836976nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param09_26

